US09085578B2
A) 2-((dimethylamino)methylene)-N-(2-methylphenyl)-3-oxobutanamide
To a mixture of N-(2-methylphenyl)-3-oxobutanamide (10.0 g), potassium carbonate (7.23 g) and N,N-dimethylformamide (130 mL) was added dropwise 1,1-dimethoxy-N,N-dimethylmethanamine (12.5 g) over 30 min at room temperature, and the reaction mixture was stirred at room temperature for 2 hr. The reaction mixture was slowly poured into water, and the mixture was extracted with dichloromethane. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (10.2 g).

reactant | N-(2-methylphenyl)-3-oxobutanamide | 10.0 g | CC1=C(C=CC=C1)NC(CC(C)=O)=O | C11H13NO2
reactant | potassium carbonate | 7.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 12.5 g | COC(N(C)C)OC | C5H13NO2
solvent | water | O | H2O
product | 2-((dimethylamino)methylene)-N-(2-methylphenyl)-3-oxobutanamide | 10.2 g | CN(C)C=C(C(=O)NC1=C(C=CC=C1)C)C(C)=O | C14H18N2O2
